US09193692B2
D. 4-Bromo-2-fluoro-5-methylbenzamide
To a solution of 4-bromo-2-fluoro-5-methylbenzonitrile (40 g, 190 mmol) in a mixture of sulfuric acid (98%) and TFA (v/v=4:1, 480 mL) was stirred at 80° C. for 16 h. After the mixture was cooled to room temperature, the resulting mixture was poured into ice-cold water. The resulting precipitate was collected by filtration, washed with water and dried under reduced pressure to give the title compound (41 g, 95% yield) as a white solid. MS (ESI) m/z 232.0 [M+1]+.

reactant | 4-bromo-2-fluoro-5-methylbenzonitrile | 190 mmol, 40 g | BrC1=CC(=C(C#N)C=C1C)F | C8H5BrFN
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | TFA | 480 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Bromo-2-fluoro-5-methylbenzamide | 41 g, 95% yield | BrC1=CC(=C(C(=O)N)C=C1C)F | C8H7BrFNO
